US06696473B2
A. Preparation of 5-(2-Chloroethoxy)-2-methylthio-benzothiazole
To a solution of 5-hydroxy-2-methylthio-benzothiazole (2.1 g, 11 mmol) in anhydrous DMF (25 mL) was added bromo-2-chloroethane (4.4 mL, 53 mmol) and powdered K2CO3 (7.3 g, 53 mmol). The reaction slurry was heated at 70° C. for 13 h. The slurry was filtered under vacuum and the filtrate was concentrated under reduced pressure. The crude material was chromatographed (SiO2, 0-20% EtOAc/Hex) to afford the title compound (1.2 g, 46%). 1H-NMR (CDCl3): δ 7.62 (1H, d), 7.39 (1H, d), 6.97 (1H, dd), 4.29 (2H, t), 3.85 (2H, t), 2.79 (3H, s); MS(ESI): 259 (MH+).

reactant | 5-hydroxy-2-methylthio-benzothiazole | 11 mmol, 2.1 g | OC=1C=CC2=C(N=C(S2)SC)C1 | C8H7NOS2
reactant | bromo-2-chloroethane | 53 mmol, 4.4 mL | BrCCCl | C2H4BrCl
reactant | K2CO3 | 53 mmol, 7.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 5-(2-Chloroethoxy)-2-methylthio-benzothiazole | 1.2 g, 46% | ClCCOC=1C=CC2=C(N=C(S2)SC)C1 | C10H10ClNOS2
